US08486996B2
2-Hydroxy-3-methyl-benzaldehyde
To a stirred solution of o-cresol (4.0 g, 37 mmol) in triethylamine (3.8 ml, 26.6 mmol) and toluene (100 ml) is added dropwise SnCl4 (0.95 g, 36.5 mmol) under an atmosphere of nitrogen. After the addition of paraformaldehyde the mixture is heated at reflux for 18 h. The reaction mixture is quenched by pouring onto crushed ice and the pH is adjusted to 2 by addition of aqueous HCl. The product is extracted with ether and the resulting organic phase is washed with brine and dried over sodium sulfate. Evaporation of the solvent and purification by chromatography yields the title compound. (CDCl3, 400 MHz): 11.26 (s, 1H); 9.86 (s, 1H); 7.37 (m, 2H); 6.91 (t, 1H); 2.23 (s, 3H).

reactant | o-cresol | 37 mmol, 4.0 g | C1(=CC=CC=C1O)C | C7H8O
reactant | triethylamine | 26.6 mmol, 3.8 ml | C(C)N(CC)CC | C6H15N
reactant | SnCl4 | 36.5 mmol, 0.95 g | Cl[Sn](Cl)(Cl)Cl
reactant | paraformaldehyde | C=O | CH2O
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | 2-Hydroxy-3-methyl-benzaldehyde | OC1=C(C=O)C=CC=C1C | C8H8O2
